US08937150B2
methyl{(2S)-1-[(2S)-2-{5-[(2R,5R)-1-[3,5-difluoro-4-(piperidin-1-yl)phenyl]-5-{6-fluoro-2-[(2S)-1-{(2S)-2-[(methoxycarbonyl)amino]-3-methylbutanoyl}pyrrolidin-2-yl]-1H-benzimidazol-5-yl}pyrrolidin-2-yl]-6-fluoro-1H-benzimidazol-2-yl}pyrrolidin-1-yl]-3-methyl-1-oxobutan-2-yl}carbamate
To a solution of 6,6′-{(2R,5R)-1-[3,5-difluoro-4-(piperidin-1-yl)phenyl]pyrrolidine-2,5-diyl}bis{5-fluoro-2-[(2S)-pyrrolidin-2-yl]-1H-benzimidazole} (64 mg, 0.095 mmol) in DMF (2378 μL) was added (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid (35.0 mg, 0.200 mmol), EDC (45.6 mg, 0.238 mmol), HOBT (36.4 mg, 0.238 mmol) and N-methylmorpholine (105 μL, 0.951 mmol), and the resultant solution was stirred at ambient temperature overnight. The reaction solution was diluted with EtOAc, washed with H2O and brine, dried (MgSO4), filtered and concentrated. The crude material was dissolved in 1:1 CH3CN:0.1% TFA/H2O and purified by HPLC (C18, 0-100% CH3CN/0.1% TFA/H2O). The product containing fractions were combined, made basic with saturated sodium bicarbonate solution, and extracted with EtOAc. The organic layer was dried (MgSO4), filtered and concentrated to give the title compound (43.3 mg, 0.044 mmol, 46.1% yield). The title compound can also be prepared according to General Procedure 12C described above. 1H NMR (400 MHz, CDCl3) δ ppm 10.25-10.70 (m, 2H) 6.83-7.53 (m, 4H) 5.70-5.91 (m, 2H) 5.20-5.52 (m, 4H) 4.21-4.42 (m, 2H) 3.70 (s, 6H) 3.53-3.94 (m, 6H) 1.75-3.17 (m, 16H) 0.63-1.74 (m, 18H); MS (ESI) m/z 987 (M+H)+.

reactant | 6,6′-{(2R,5R)-1-[3,5-difluoro-4-(piperidin-1-yl)phenyl]pyrrolidine-2,5-diyl}bis{5-fluoro-2-[(2S)-pyrrolidin-2-yl]-1H-benzimidazole} | 0.095 mmol, 64 mg | FC=1C=C(C=C(C1N1CCCCC1)F)N1[C@H](CC[C@@H]1C=1C(=CC2=C(NC(=N2)[C@H]2NCCC2)C1)F)C=1C(=CC2=C(NC(=N2)[C@H]2NCCC2)C1)F | C37H40F4N8
reactant | (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid | 0.200 mmol, 35.0 mg | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
reactant | EDC | 0.238 mmol, 45.6 mg
reactant | HOBT | 0.238 mmol, 36.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.951 mmol, 105 μL | CN1CCOCC1 | C5H11NO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 2378 μL | CN(C)C=O | C3H7NO
product | methyl{(2S)-1-[(2S)-2-{5-[(2R,5R)-1-[3,5-difluoro-4-(piperidin-1-yl)phenyl]-5-{6-fluoro-2-[(2S)-1-{(2S)-2-[(methoxycarbonyl)amino]-3-methylbutanoyl}pyrrolidin-2-yl]-1H-benzimidazol-5-yl}pyrrolidin-2-yl]-6-fluoro-1H-benzimidazol-2-yl}pyrrolidin-1-yl]-3-methyl-1-oxobutan-2-yl}carbamate | 0.044 mmol, 43.3 mg, 46.1% yield | COC(N[C@H](C(=O)N1[C@@H](CCC1)C1=NC2=C(N1)C=C(C(=C2)[C@@H]2N([C@H](CC2)C2=CC1=C(NC(=N1)[C@H]1N(CCC1)C([C@H](C(C)C)NC(=O)OC)=O)C=C2F)C2=CC(=C(C(=C2)F)N2CCCCC2)F)F)C(C)C)=O | C51H62F4N10O6
